US07141598B2
Production of N,N-diisopropyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide
Dry toluene (20 ml) was cooled to −70° C. and n-butyl lithium (1.6 M; 2.35 ml) was added dropwise. A solution of 6-bromo-N,N-diisopropyl-2-naphthamide (1.20 g) in dry THF (8 ml) was added dropwise to the reaction mixture. After stirring the mixture at −70° C. for 20 min, a solution of N-methoxy-N-methyl-1-trityl-1H-imidazole-4-carboxyamide (1.09 g) in dry THF (6 ml) was added dropwise to the reaction mixture. The mixture was stirred at −70° C. for 20 min and water was added at the same temperature to stop the reaction. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography (hexane:ethyl acetate=2:1) to give the title compound (1.40 g) as a colorless powder. The physical and chemical data were identical with those obtained for the compound obtained of Reference Example 13.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | n-butyl lithium | 1.6 M, 2.35 ml | C(CCC)[Li]
reactant | 6-bromo-N,N-diisopropyl-2-naphthamide | 1.20 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)N(C(C)C)C(C)C | C17H20BrNO
reactant | N-methoxy-N-methyl-1-trityl-1H-imidazole-4-carboxyamide | 1.09 g | CON(C(=O)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H25N3O2
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N,N-diisopropyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 1.40 g | C(C)(C)N(C(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C40H37N3O2
